US06083942
To 60 ml of ethanol in a 250 ml round-bottom flask was added 25 grams of 4-pyridinecarboxylic acid hydrazide and 58 grams of 1-bromo-2-fluoroethane, to prepare a reaction mixture. After stirring the reaction mixture at room temperature for 15 minutes, a solution of 24 grams of potassium hydroxide in 60 ml of water was added dropwise to the reaction mixture. The resulting reaction mixture was heated to reflux for 3 hours. The reaction mixture was then allowed to cool to room temperature. To the cooled reaction mixture was added 100 ml of water and 200 ml of dichloromethane, to prepare a mixture with an aqueous layer and an organic layer. The organic layer was separated and extracted to leave an oil upon evaporation of the solvent. The oil was purified by column chromatography on silica gel using dichloromethane as the eluant, to produce 12 grams of 4-(2-fluoroethyl)-5,6-dihydro-2-(4-pyridinyl)-4H-1,3,4-oxadiazine as an oil.

reactant | ethanol | 60 ml | C(C)O | C2H6O
reactant | 4-pyridinecarboxylic acid hydrazide | 25 grams | N1=CC=C(C=C1)C(=O)NN | C6H7N3O
reactant | 1-bromo-2-fluoroethane | 58 grams | BrCCF | C2H4BrF
reactant | potassium hydroxide | 24 grams | [OH-].[K+]
solvent | water | 60 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-(2-fluoroethyl)-5,6-dihydro-2-(4-pyridinyl)-4H-1,3,4-oxadiazine | 12 grams | FCCN1N=C(OCC1)C1=CC=NC=C1 | C10H12FN3O
